US05374772
A mixture of 0.79 g (4.7 mmol) of 3,5-dihydroxybenzoic acid methyl ester, 3.0 g (10.3 mmol) of 4-(3-bromopropoxy)-1,1-biphenyl, 1.55 g (10.3 mmol) of sodium iodide and 3.9 g (28 mmol) of potassium carbonate in 80 mL of anhydrous acetone and 40 mL of DMF was stirred at reflux for 39 hours. The solvents were removed at reduced pressure, water was added to the residue and the product was extracted with chloroform. The dried extract was concentrated to a solid which was purified by chromatography on 90 g of silica gel using chloroform to give 1.5 g (54% yield, mp 142°-145°) of 3,5-bis [3-(1,1'-biphenyl-4-yloxy)propoxy]benzoic acid methyl ester.

reactant | 3,5-dihydroxybenzoic acid methyl ester | 4.7 mmol, 0.79 g | COC(C1=CC(=CC(=C1)O)O)=O | C8H8O4
reactant | 4-(3-bromopropoxy)-1,1-biphenyl | 10.3 mmol, 3.0 g | BrCCCOC1=CC=C(C=C1)C1=CC=CC=C1 | C15H15BrO
reactant | sodium iodide | 10.3 mmol, 1.55 g | [I-].[Na+]
reactant | potassium carbonate | 28 mmol, 3.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 80 mL | CC(=O)C | C3H6O
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 3,5-bis [3-(1,1'-biphenyl-4-yloxy)propoxy]benzoic acid methyl ester | 1.5 g, 54% yield | COC(C1=CC(=CC(=C1)OCCCOC1=CC=C(C=C1)C1=CC=CC=C1)OCCCOC1=CC=C(C=C1)C1=CC=CC=C1)=O | C38H36O6
